US07230001B1
3-{1-[4-(4-aminomethylphenyl)-1-oxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone (Item no. 77)
A solution of 0.48 g (1.153 mmol) of 3-{1-[4-(4-cyanophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone (Item no. 73) and 1.15 ml of 1N hydrochloric acid in 100 ml of methanol was hydrogenated at ambient temperature under 3 bar of pressure in the presence of 0.25 g of 10% palladium on active charcoal until the uptake of hydrogen had ended. The mixture was freed from catalyst and solvent and yielded 0.27 g (58% of theoretical) of a colourless substance, Rf 0.30 (El A). IR (KBr): 1662.5 (C═O) MS: M+406; ESI: (M+H)+=407

reactant | 3-{1-[4-(4-cyanophenyl)-1,4-dioxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | 1.153 mmol, 0.48 g | C(#N)C1=CC=C(C=C1)C(CCC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C24H24N4O3
reactant | hydrochloric acid | 1N, 1.15 ml | Cl | ClH
reactant | charcoal | C | CH4
reactant | hydrogen | [H][H] | H2
reactant | KBr | [K+].[Br-]
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | 0.25 g | [Pd] | Pd
product | 3-{1-[4-(4-aminomethylphenyl)-1-oxobutyl]-4-piperidinyl}-3,4-dihydro-2(1H)-quinazolinone | NCC1=CC=C(C=C1)CCCC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C24H30N4O2
